2107-02-02 07:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2107-2-2**] 02:24 AM
   .
   EGD yesterday: 4 cords grade III varices, no active bleeding but slow
   ooze possible. 3 bands placed. Portal hypertension gastropathy seen.
   Rec: discontinue octreotide gtt, sulcrafate QID, prophylactic abx X5
   days
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2107-2-2**] 04:30 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2107-2-1**] 09:57 PM
   Fentanyl - [**2107-2-2**] 01:40 AM
   Midazolam (Versed) - [**2107-2-2**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-2-2**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.1
C (97
   HR: 78 (70 - 91) bpm
   BP: 99/55(65) {63/41(46) - 138/79(81)} mmHg
   RR: 19 (14 - 22) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
           Total In:
                                                                    327 mL
                                                                    766 mL
   PO:
           TF:
   IVF:
                                                                     40 mL
                                                                    151 mL
   Blood products:
                                                                    287 mL
                                                                    615 mL
   Total out:
                                                                    103 mL
                                                                    104 mL
   Urine:
                                                                    103 mL
                                                                    104 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    224 mL
                                                                    662 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   274 K/uL
   8.6 g/dL
   131 mg/dL
   4.2 mg/dL
   28 mEq/L
   5.5 mEq/L
   133 mg/dL
   100 mEq/L
   139 mEq/L
   28.6 %
   9.6 K/uL
        [image002.jpg]
                             [**2107-2-2**]  12:57 AM
                             [**2107-2-2**]  01:02 AM
                             [**2107-2-2**]  04:57 AM
   WBC
   9.6
   Hct
   22.5
   28.6
   Plt
   274
   Cr
   3.9
   4.2
   TropT
   0.36
   Glucose
   127
   131
   Other labs: CK / CKMB / Troponin-T:303/11/0.36, ALT / AST:32/40, Alk
   Phos / T Bili:73/1.3, LDH:240 IU/L, Ca++:8.8 mg/dL, Mg++:2.3 mg/dL,
   PO4:6.9 mg/dL
   Assessment and Plan
   Assessment and Plan: 69 y/o F DM, CAD recent NSTEMI, cirrhosis who
   presents with black stool and anemia.
   .
   # Black stool and anemia: Rectal demonstrates melena suggestive of
   acute upper GI bleed. Most likely secondary to varices or gastritis as
   demonstrated on recent EGD. Patient currently hypotensive which is
   concerning for significant varicial bleed.
   Central line placed, EGD performed, transfused 3 units, octreotide
   d/c
d and CTX prophylaxis started
   - HCT q6hr today
   - Hold Aspirin, Nadolol, Lasix, ACE, Spironolactone
   .
   # Hypotension: Most likely secondary to acute upper GI bleed. Less
   likely is sepsis physiology vs cardiogenic shock vs nadolol toxicity.
   No elevated WBC, fever, elevated RR to suggest SIRS. No evidence on
   physical exam to suggest cardiogenic shock. No bradycardia to suggest
   nadolol toxicity, but medication is renally cleared.
   - F/U urine culture, blood cultures
   - trend cardiac enzymes
   - treat GI bleed as above
   - consider glucagon for B-blocker toxicity if patient not actively
   bleeding on scope or becomes bradycardiac
   .
   # Acute renal failure: Creatinine elevated following cath on [**2106-1-1**]
   ranging from 1.6 - 2.5. Since [**2107-1-24**] creatinine acutely worsened to
   3.9. Most likely initial insult was from cath contrast. Unclear what is
   causing recent worsening of renal failure - broad differential
   including ATN, poor forward perfusion, hepatorenal syndrome. Worsened
   at 4.2 today.
   - Send urine lytes
   - Renal u/s to r/o obstruction
   - Hold diuretics
   - Consult renal in am
   - Per liver start treatment for hepatorenal syndrome: albumin 1
   gram/kg, octreotide 100 Q8, Midodrine 7.5 TID
   .
   # Diabetes: Hold metformin.
   - Sliding scale while in house.
   .
   # CAD: No chest pain.
   - Trend cardiac enzymes
   - Continue Atorvastatin 20 mg for hyperlipidemia
   - Hold ASA
   .
   # Atrial fibrillation: Currently rate controlled.
   - Hold Nadolol in setting of acute bleed but consider restarting today
   with confirmed varices
   .
   # Cirrhosis: LFT and coags are stable. Oriented X 3.
   - Liver team to follow
   - Treat possible hepatorenal syndrome as above.
   .
   # FEN: replete electrolytes, NPO
   # Prophylaxis: pneumoboots
   # Access: central line
   # Communication: Patient and husband
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending clinical improvement
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2107-2-1**] 09:17 PM
   20 Gauge - [**2107-2-1**] 09:18 PM
   Multi Lumen - [**2107-2-2**] 02:24 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2107-02-02 09:40:00 Physician Attending Progress Note
CRITICAL CARE ATTENDING
   Chief Complaint: shock, acute renal failure
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - START [**2107-2-2**] 02:24 AM
   CVL placed
   Art line unsuccessful
   EGD with varices, but not actively bleeding
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2107-2-2**] 04:30 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2107-2-1**] 09:57 PM
   Fentanyl - [**2107-2-2**] 01:40 AM
   Midazolam (Versed) - [**2107-2-2**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-2-2**] 09:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.8
C (96.4
   HR: 81 (70 - 91) bpm
   BP: 85/51(69) {63/41(46) - 138/79(81)} mmHg
   RR: 21 (14 - 22) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
           Total In:
                                                                    327 mL
                                                                    807 mL
   PO:
           TF:
   IVF:
                                                                     40 mL
                                                                    192 mL
   Blood products:
                                                                    287 mL
                                                                    615 mL
   Total out:
                                                                    103 mL
                                                                    104 mL
   Urine:
                                                                    103 mL
                                                                    104 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    224 mL
                                                                    703 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.6 g/dL
   274 K/uL
   131 mg/dL
   4.2 mg/dL
   28 mEq/L
   5.5 mEq/L
   133 mg/dL
   100 mEq/L
   139 mEq/L
   28.6 %
   9.6 K/uL
        [image002.jpg]
                             [**2107-2-2**]  12:57 AM
                             [**2107-2-2**]  01:02 AM
                             [**2107-2-2**]  04:57 AM
   WBC
   9.6
   Hct
   22.5
   28.6
   Plt
   274
   Cr
   3.9
   4.2
   TropT
   0.36
   Glucose
   127
   131
   Other labs: CK / CKMB / Troponin-T:303/11/0.36, ALT / AST:32/40, Alk
   Phos / T Bili:73/1.3, LDH:240 IU/L, Ca++:8.8 mg/dL, Mg++:2.3 mg/dL,
   PO4:6.9 mg/dL
   Assessment and Plan
   69 y/o woman with
          Shock of uncertain etiology
          Acute renal failure
          Cirrhosis
          Varices s/p banding but without signs of active bleeding.
   Perplexing presentation with broad differential.  Does not appear to be
   primarily a GI bleed.  Doesn
t have clear signs of infection.  EKG
   yesterday was reassuring but troponin was elevated.
          Check CVP
          Check echo
          Albumin for volume expansion as needed
          Discuss Octreotide/midodrine with liver and renal
          Consult renal, check urine studies, follow up renal
   ultrasound
          Repeat EKG and check echo.  Doubt unstable plaque.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2107-2-1**] 09:17 PM
   20 Gauge - [**2107-2-1**] 09:18 PM
   Multi Lumen - [**2107-2-2**] 02:24 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :ICU
   Total time spent:
   Patient is critically ill

2107-02-03 07:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2107-2-2**] 09:48 AM
   renal
 TRANSTHORACIC ECHO - At [**2107-2-2**] 12:48 PM
 ARTERIAL LINE - START [**2107-2-2**] 08:05 PM
 EKG - At [**2107-2-3**] 05:29 AM
   [**2-2**]:
   - Sulcrafate started, octreotide stopped
   - Liver: soft diet (given new bands), octreotide/albumin/midodrine
   - Troponin 0.44 --> 0.36 --> 0.32
   - EKG: reviewed on rounds, okay
   - Blood/urine cultures ordered
   - Off pressors since 2 pm; drops blood pressures when she sleeps
   - Diagnostic para done: No e/o SBP
   - ECHO: The left atrium is moderately dilated. There is mild symmetric
   left ventricular hypertrophy. The left ventricular cavity size is
   normal. There is probable basal inferoseptal akinesis and probabel
   basal inferior akinesis but views are suboptimal for assessment of
   regional wall motion. Overall left ventricular systolic function is
   probably mildy impaired (LVEF 50%?). The right ventricular cavity is
   dilated There is abnormal septal motion/position consistent with right
   ventricular pressure/volume overload. The aortic valve leaflets are
   mildly thickened (?#). There is no aortic valve stenosis. No aortic
   regurgitation is seen. The mitral valve leaflets are mildly thickened.
   At least mld to moderate ([**12-18**]+) mitral regurgitation is seen. The
   tricuspid valve leaflets are mildly thickened. Moderate [2+] tricuspid
   regurgitation is seen. There is moderate pulmonary artery systolic
   hypertension. There is no pericardial effusion.
   - Renal Ultrasound: 1. No evidence of obstruction. 2. Stable right
   upper pole renal cyst. 3. Small amount of ascites.
   - Renal consult:  Consider crystalloid resuscitation, would run 1-1.5L
   positive (1.6 L positive at 2200)
   - [**Last Name (un) 1398**] stim test
   - IJ repositioned, ok to use
   - Levo restarted o/n for SBP 80-90s. UOP down to 5-10 cc/hr. NS bolus
   500 cc
   - K 5.8 this AM -> kayexelate 15 g; ECG: ****
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2107-2-2**] 04:30 AM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Carafate (Sucralfate) - [**2107-2-3**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-2-3**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.1
C (97
   HR: 75 (66 - 86) bpm
   BP: 106/57(77) {76/49(59) - 123/75(93)} mmHg
   RR: 13 (12 - 24) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
    CVP: 20 (20 - 260)mmHg
   Total In:
                                                                  2,380 mL
                                                                    746 mL
   PO:
                                                                    330 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    935 mL
                                                                    626 mL
   Blood products:
                                                                  1,115 mL
   Total out:
                                                                    383 mL
                                                                     25 mL
   Urine:
                                                                    383 mL
                                                                     25 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,997 mL
                                                                    721 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   190 K/uL
   8.1 g/dL
   169 mg/dL
   4.2 mg/dL
   28 mEq/L
   5.8 mEq/L
   135 mg/dL
   101 mEq/L
   141 mEq/L
   28.3 %
   8.2 K/uL
        [image002.jpg]
                             [**2107-2-2**]  12:57 AM
                             [**2107-2-2**]  01:02 AM
                             [**2107-2-2**]  04:57 AM
                             [**2107-2-2**]  11:33 AM
                             [**2107-2-2**]  05:26 PM
                             [**2107-2-3**]  02:12 AM
   WBC
   9.6
   8.2
   Hct
   22.5
   28.6
   29.2
   27.3
   28.3
   Plt
   274
   190
   Cr
   3.9
   4.2
   3.9
   4.2
   TropT
   0.36
   0.32
   Glucose
   127
   131
   139
   169
   Other labs: PT / PTT / INR:14.3/29.3/1.2, CK / CKMB /
   Troponin-T:303/14/0.32, ALT / AST:29/51, Alk Phos / T Bili:52/1.1,
   LDH:240 IU/L, Ca++:8.8 mg/dL, Mg++:2.5 mg/dL, PO4:8.2 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Assessment and Plan: 69 y/o F DM, CAD recent NSTEMI, cirrhosis who
   presents with black stool and anemia.
   .
   # Hypotension: Etiology remains unclear. Sepsis and cardiogenic shock
   unlikely, as is SIRS. Cortisol stimulation test ruled out adrenal
   insufficiency. Possible med toxicity from nadolol in setting of
   worsening renal function. Also possible is hepatorenal syndrome per
   Hepatology team.  Was able to wean off pressors yesterday. Does drop
   her blood pressures when she lies on her sides while sleeping.
   - Lasix trial today given possibility that patient is mainly
   significantly volume overloaded causing heart strain and subsequent
   hypotension
   - F/U urine culture, blood cultures
   - Continue treatment for Hepatorenal Syndrome with Octreotide,
   Midodrine (diagnosis of exclusion, though); hold on Albumin
   - Will recheck CVP today
   # Black stool and anemia: Central line placed, EGD performed suggestive
   of possibly slow oozing from portal hypertension gastropathy and
   varices, transfused 3 units, octreotide d/c
d and CTX prophylaxis
   started yesterday.
   - Hold Aspirin, Nadolol, Lasix, ACE, Spironolactone
   .
   # Acute renal failure/hyperkalemia: Creatinine elevated following cath
   on [**2106-1-1**] ranging from 1.6 - 2.5. Since [**2107-1-24**] creatinine acutely
   worsened to 3.9. Most likely initial insult was from cath contrast.
   Unclear what is causing recent worsening of renal failure - broad
   differential including ATN, poor forward perfusion, hepatorenal
   syndrome. Worsened at 4.2 today.
   - Follow-up renal recs
 may need dialysis
   - Recheck K this morning
   - Monitor electrolytes/creatinine
   - Per Hepatology, continue treatment for hepatorenal syndrome:
   octreotide 100 Q8, Midodrine 7.5 TID; hold on Albumin
   .
   # Diabetes: Hold metformin.
   - Sliding scale while in house.
   .
   # CAD: No chest pain. Cardiac enzymes slowly drifted down yesterday,
   stably elevated. Likely in setting of renal failure and old NSTEMI
   - Continue Atorvastatin 20 mg for hyperlipidemia
   - Hold ASA
   .
   # Atrial fibrillation: Currently rate controlled.
   - Hold Nadolol in setting of acute bleed but consider restarting today
   with confirmed varices
   .
   # Cirrhosis: LFT and coags are stable. Oriented X 3.
   - Liver team to follow
   - Treat possible hepatorenal syndrome as above.
   .
   # FEN: replete electrolytes, clears
 advanced as tolerated (low
   potassium, renal diet)
   # Prophylaxis: pneumoboots
   # Access: central line. A line, peripheral IVs
   # Communication: Patient and husband
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending clinical improvement
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2107-2-1**] 09:17 PM
   20 Gauge - [**2107-2-1**] 09:18 PM
   Multi Lumen - [**2107-2-2**] 02:24 AM
   Arterial Line - [**2107-2-2**] 08:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2107-02-04 07:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PARACENTESIS - At [**2107-2-3**] 02:02 PM
 NON-INVASIVE VENTILATION - START [**2107-2-3**] 02:27 PM
 DIALYSIS CATHETER - START [**2107-2-3**] 08:04 PM
 BLOOD CULTURED - At [**2107-2-3**] 11:32 PM
   only able to obtain CVL
 URINE CULTURE - At [**2107-2-3**] 11:32 PM
   .
   - ICU consent done
   - [**Name (NI) **] mother just died amid arguments around ventilator; pt
   currently DNR but please intubate (confirmed w/ attg and fellow)
   - K 5.8 --> 5.5 --> 5.5 (EKG WNL and Kayexelate this AM)
   - Central Venous O2 88
   - BPs 120s/70s on 0.02 neo, with pressors off SBP tanks to 70s
   - Noon UOP virtually zero, received Lasix 40 mg at 1000 and 60 mg at
   1300, no change
   - Sleeping w/OSA snoring appearance, had 7.22/66/101. Put on BiPAP and
   gas after 7.23/61/172. Increased pressure, next gas 7.27/56/126
   - Hepatology recs: Cannot r/o hepatorenal syndrome but cannot dx until
   she's out of shock; d/c albumin; increase midodrine to 7.5 mg TID; abx
   5 days total, sucralfate 10 days total
   - Renal will round on her shortly and will discuss HD with us after
   - Data from chart biopsy: After 5 years w/o medical care she presented
   in [**Month (only) 2965**] with new AFib, NSTEMI, new cirrhosis, elevated CA 125 (400),
   nonvisualized ovaries on CT or US, 2.5 cm hypoechoic pelvic mass c/w
   fibroid vs ovarian pathology. Was to have outpatient pelvic MRI to
   characterize mass which could be ovarian malignancy, has not done so.
   Other studies showed significant cirrhotic stigmata (varices,
   splenomegaly, ascites), and her breathing improved with aggressive
   diuresis.
   Her presentation now c/w HRS, in particular pressor dependence, sodium
   retention (< 10 mEQ/L in [**2-1**] spot check), ARF
   - Peritoneal fluid and urine/blood cx neg
   - V/Q scan ordered
   - Temp HD line placed and CVVHD started tonight!
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2107-2-2**] 04:30 AM
   Vancomycin - [**2107-2-3**] 11:01 PM
   Piperacillin/Tazobactam (Zosyn) - [**2107-2-4**] 06:00 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 1 mEq./hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2107-2-3**] 11:38 AM
   Furosemide (Lasix) - [**2107-2-3**] 01:30 PM
   Pantoprazole (Protonix) - [**2107-2-3**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-2-4**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.6
C (96
   HR: 73 (69 - 82) bpm
   BP: 120/74(93) {75/46(57) - 140/85(104)} mmHg
   RR: 21 (8 - 25) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
    CVP: 29 (23 - 39)mmHg
   Total In:
                                                                  1,574 mL
                                                                  1,257 mL
   PO:
                                                                    360 mL
   TF:
   IVF:
                                                                  1,214 mL
                                                                  1,257 mL
   Blood products:
   Total out:
                                                                     74 mL
                                                                  1,369 mL
   Urine:
                                                                     74 mL
                                                                     27 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,500 mL
                                                                   -113 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 549 (306 - 664) mL
   PS : 15 cmH2O
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 0 cmH2O
   SpO2: 98%
   ABG: 7.28/56/147/25/-1
   Ve: 5.4 L/min
   PaO2 / FiO2: 490
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   213 K/uL
   7.7 g/dL
   170 mg/dL
   4.5 mg/dL
   25 mEq/L
   5.1 mEq/L
   128 mg/dL
   101 mEq/L
   140 mEq/L
   26.7 %
   8.9 K/uL
        [image002.jpg]
                             [**2107-2-3**]  01:38 PM
                             [**2107-2-3**]  02:32 PM
                             [**2107-2-3**]  03:46 PM
                             [**2107-2-3**]  05:14 PM
                             [**2107-2-3**]  09:57 PM
                             [**2107-2-3**]  10:03 PM
                             [**2107-2-4**]  12:55 AM
                             [**2107-2-4**]  03:00 AM
                             [**2107-2-4**]  03:44 AM
                             [**2107-2-4**]  03:49 AM
   WBC
   8.9
   Hct
   26.7
   Plt
   213
   Cr
   4.8
   4.5
   TCO2
   28
   27
   27
   28
   29
   30
   30
   27
   Glucose
   163
   188
   170
   Other labs: PT / PTT / INR:14.6/29.1/1.3, CK / CKMB /
   Troponin-T:303/14/0.32, ALT / AST:25/46, Alk Phos / T Bili:48/0.8,
   Lactic Acid:0.8 mmol/L, LDH:240 IU/L, Ca++:8.3 mg/dL, Mg++:2.4 mg/dL,
   PO4:7.3 mg/dL
   Assessment and Plan
   69 y/o F DM, CAD recent NSTEMI, cirrhosis who presents with black stool
   and anemia.
   .
   # Hypotension: Etiology remains unclear. Sepsis and cardiogenic shock
   unlikely, as is SIRS. Cortisol stimulation test ruled out adrenal
   insufficiency. Possible med toxicity from nadolol in setting of
   worsening renal function. Also possible is hepatorenal syndrome per
   Hepatology team.  Was able to wean off pressors yesterday, back on
   yesterday. Does drop her blood pressures when she lies on her sides
   while sleeping. Did not respond to lasix trial yesterday
 no urine
   output.
   - Started hemodialysis yesterday for volume overload causing heart
   strain and subsequent hypotension
   - F/U urine culture, blood cultures
   - Continue treatment for Hepatorenal Syndrome with Octreotide,
   Midodrine (diagnosis of exclusion, though); holding on Albumin
   - Will recheck CVP today
   - V/Q scan to r/o PE
   - Wean pressors as tolerated
   .
   # Acute renal failure/hyperkalemia: Creatinine elevated following cath
   on [**2106-1-1**] ranging from 1.6 - 2.5. Since [**2107-1-24**] creatinine acutely
   worsened to 3.9. Most likely initial insult was from cath contrast.
   Unclear what is causing recent worsening of renal failure - broad
   differential including ATN, poor forward perfusion, hepatorenal
   syndrome. Worsened at 4.2 yesterday.
   - Started CVVHD overnight
    - Monitor electrolytes/creatinine
   - Per Hepatology, continue treatment for hepatorenal syndrome:
   octreotide 100 Q8, Midodrine 7.5 TID; hold on Albumin
   .
   # Black stool and anemia: Central line placed, EGD performed suggestive
   of possibly slow oozing from portal hypertension gastropathy and
   varices, transfused 3 units, octreotide d/c
d and CTX prophylaxis
   started yesterday.
   - Hold Aspirin, Nadolol, Lasix, ACE, Spironolactone
   .
   # Diabetes: Hold metformin.
   - Sliding scale while in house.
   .
   # CAD: No chest pain. Cardiac enzymes slowly drifted down yesterday,
   stably elevated. Likely in setting of renal failure and old NSTEMI
   - Continue Atorvastatin 20 mg for hyperlipidemia
   - Hold ASA
   .
   # Atrial fibrillation: Currently rate controlled.
   - Hold Nadolol in setting of acute bleed but consider restarting today
   with confirmed varices
   .
   # Cirrhosis: LFT and coags are stable. Oriented X 3.
   - Liver team to follow
   - Treat possible hepatorenal syndrome as above.
   .
   # FEN: replete electrolytes, clears
 advanced as tolerated (low
   potassium, renal diet)
   # Prophylaxis: pneumoboots
   # Access: central line. A line, peripheral IVs, HD line
   # Communication: Patient and husband
   # Code:  DNR but please intubate (confirmed with patient)
   # Disposition: ICU pending clinical improvement
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2107-2-1**] 09:17 PM
   20 Gauge - [**2107-2-1**] 09:18 PM
   Multi Lumen - [**2107-2-2**] 02:24 AM
   Arterial Line - [**2107-2-2**] 08:05 PM
   Dialysis Catheter - [**2107-2-3**] 08:04 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2107-02-05 06:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - V/Q at 15:00: intermediate probability. At least 3 segment defects
   within the right lung; CXR shows clear lungs w/small right pleural
   effusion. "Clinical treatment for pulmonary embolism would be
   warranted."
   - Discussed possibility of anticoagulation w/liver fellow, who ran it
   past her attending. They say she'd be extremely high risk to bleed from
   her banded varices, recommend against anticoagulation.
   - Getting HD all night, only about -200 cc by AM with goal of -1.5 L.
   - Reports breathing much more easily
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2107-2-4**] 08:03 PM
   Piperacillin/Tazobactam (Zosyn) - [**2107-2-5**] 06:06 AM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2107-2-4**] 08:02 PM
   Heparin Sodium (Prophylaxis) - [**2107-2-4**] 11:07 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-2-5**] 06:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 35.8
C (96.4
   Tcurrent: 35.6
C (96
   HR: 79 (69 - 84) bpm
   BP: 97/59(74) {85/51(65) - 130/88(104)} mmHg
   RR: 16 (10 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SVT (Supra Ventricular Tachycardia), A Fib
   Wgt (current): 129.2 kg (admission): 128.7 kg
   Height: 67 Inch
    CVP: 24 (14 - 29)mmHg
   Total In:
                                                                  5,144 mL
                                                                  2,249 mL
   PO:
                                                                    200 mL
                                                                     40 mL
   TF:
   IVF:
                                                                  4,944 mL
                                                                  2,209 mL
   Blood products:
   Total out:
                                                                  5,139 mL
                                                                  2,074 mL
   Urine:
                                                                     97 mL
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      5 mL
                                                                    175 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.33/58/65/30/2
   PaO2 / FiO2: 217
   Physical Examination
   Gen: NAD, AOx3
   CTA
   S1 S2 no murmur irregular
   Soft, NT, distended, ascites
   Skin warm dry, extremities well perfused
   Labs / Radiology
   156 K/uL
   7.3 g/dL
   138 mg/dL
   3.5 mg/dL
   30 mEq/L
   3.6 mEq/L
   85 mg/dL
   101 mEq/L
   141 mEq/L
   25.5 %
   6.3 K/uL
        [image002.jpg]
                             [**2107-2-4**]  03:49 AM
                             [**2107-2-4**]  09:50 AM
                             [**2107-2-4**]  09:52 AM
                             [**2107-2-4**]  02:56 PM
                             [**2107-2-4**]  03:31 PM
                             [**2107-2-4**]  07:47 PM
                             [**2107-2-4**]  07:49 PM
                             [**2107-2-5**]  01:59 AM
                             [**2107-2-5**]  02:06 AM
                             [**2107-2-5**]  06:08 AM
   WBC
   7.4
   6.3
   6.3
   Hct
   25.7
   26.3
   25.5
   Plt
   227
   169
   156
   Cr
   4.0
   3.8
   3.9
   3.5
   TCO2
   27
   29
   31
   30
   30
   32
   Glucose
   183
   148
   141
   138
   Other labs: PT / PTT / INR:14.7/35.5/1.3, CK / CKMB /
   Troponin-T:303/14/0.32, ALT / AST:28/46, Alk Phos / T Bili:47/0.8,
   Lactic Acid:0.9 mmol/L, Albumin:3.6 g/dL, LDH:211 IU/L, Ca++:7.5 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   69 y/o F DM, CAD recent NSTEMI, cirrhosis who p/w anemia, hypotension,
   worsening renal failure.
   # Respiratory status: She feels breathing much improved today. Has not
   required any BiPap x 24 hours, gases look good, excellent mental status
   w/: 7.32 / 55 / 115, 7.35 / 54 / 82, 7.30 / 56 / 104. Her V/Q scan was
   complicated by poor effort, and the intermediate probability scan was
   in the setting of low pretest probability. We did consider
   anticoagulation overnight but, given her known liver disease and
   recently banded esophageal varices, discussed it with the liver fellow,
   who ran it past her attending. They felt she
d be she'd be extremely
   high risk to bleed from her banded varices, recommended against
   anticoagulation for the next few weeks. Of note her INR is 1.3 even
   without medication, and she was sat
ing 100% for much of the evening on
   nasal cannula.
   - Will not anticoagulate for now
   # Acute renal failure: Has had progressive kidney failure (Cr 1.6 -
   2.5) since cardiac cath 1 month ago, with acute worsening over past 10
   days (Cr 3.4-4.2).  On HD today. Differential includes HRS, for which
   empirically treating. Has had negligible UOP despite Lasix.
   - Monitor electrolytes/creatinine
   - Continue HRS tx: octreotide 100 Q8, Midodrine 7.5 TID
   - f/u liver recs
   - f/u renal recs
   # Hypotension: Largely resolved. Etiology remains unclear. Positional
   element (worse when on sides?) Sepsis and cardiogenic shock unlikely.
   Cortisol stimulation test negative. HRS, PE still in differential.
   Could also have been volume overload [**1-18**] ARF.
   - continue to monitor
   # Black stool and anemia: Central line placed, EGD performed suggestive
   of possibly slow oozing from portal hypertension gastropathy and
   varices, transfused 3 units, Ceftriaxone prophylaxis for 5 days (last
   day = ??)
   - Hold Aspirin, Nadolol, Lasix, ACE, Spironolactone
   # Diabetes: Hold metformin.
   - Sliding scale while in house.
   # CAD: No chest pain. Cardiac enzymes stably elevated. Likely in
   setting of renal failure and old NSTEMI
   - Continue Atorvastatin 20 mg for hyperlipidemia
   - Hold ASA
   # Atrial fibrillation: Currently rate controlled.
   - Hold Nadolol in setting of acute bleed but consider restarting
   # Cirrhosis: LFT and coags are stable. Oriented X 3.
   - Liver team to follow
   - Treat possible hepatorenal syndrome as above.
   # FEN: replete electrolytes, low potassium / renal diet
   # Prophylaxis: pneumoboots, auto-anticoagulated
   # Access: central line. A line, peripheral IVs, HD line
   # Communication: Patient and husband
   # Code:  DNR but please intubate (confirmed with patient)
   # Disposition: ICU
   Lines:
   18 Gauge - [**2107-2-1**] 09:17 PM
   20 Gauge - [**2107-2-1**] 09:18 PM
   Multi Lumen - [**2107-2-2**] 02:24 AM
   Arterial Line - [**2107-2-2**] 08:05 PM
   Dialysis Catheter - [**2107-2-3**] 08:04 PM

2107-02-05 09:57:00 Physician Attending Progress Note
ATTENDING
   Chief Complaint: shock, ARF, cirrhosis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 NUCLEAR MEDICINE - At [**2107-2-4**] 03:30 PM
   VQ, CVVH, transiently off pressors but back on
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2107-2-4**] 08:03 PM
   Piperacillin/Tazobactam (Zosyn) - [**2107-2-5**] 06:06 AM
   Infusions:
   Calcium Gluconate (CRRT) - 2 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2107-2-5**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2107-2-5**] 08:00 AM
   Other medications:
   sevelamer, lipitor, sqi, PPI, ASA, midodrine, levophed, SQH,
   sucralfate, vancomycin, zosyn, octreotide, bronchodilators
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-2-5**] 09:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 83 (72 - 84) bpm
   BP: 89/52(60) {89/52(60) - 89/52(60)} mmHg
   RR: 18 (10 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SVT (Supra Ventricular Tachycardia)
   Wgt (current): 129.2 kg (admission): 128.7 kg
   Height: 67 Inch
   CVP: 21 (14 - 27)mmHg
   Total In:
                                                                  5,144 mL
                                                                  3,606 mL
   PO:
                                                                    200 mL
                                                                     40 mL
   TF:
   IVF:
                                                                  4,944 mL
                                                                  3,566 mL
   Blood products:
   Total out:
                                                                  5,139 mL
                                                                  3,339 mL
   Urine:
                                                                     97 mL
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      5 mL
                                                                    271 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.34/52/99.[**Numeric Identifier 8**]/30/0
   PaO2 / FiO2: 333
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   7.3 g/dL
   156 K/uL
   138 mg/dL
   3.5 mg/dL
   30 mEq/L
   3.7 mEq/L
   85 mg/dL
   101 mEq/L
   141 mEq/L
   25.5 %
   6.3 K/uL
        [image002.jpg]
                             [**2107-2-4**]  09:50 AM
                             [**2107-2-4**]  09:52 AM
                             [**2107-2-4**]  02:56 PM
                             [**2107-2-4**]  03:31 PM
                             [**2107-2-4**]  07:47 PM
                             [**2107-2-4**]  07:49 PM
                             [**2107-2-5**]  01:59 AM
                             [**2107-2-5**]  02:06 AM
                             [**2107-2-5**]  06:08 AM
                             [**2107-2-5**]  08:14 AM
   WBC
   7.4
   6.3
   6.3
   Hct
   25.7
   26.3
   25.5
   Plt
   227
   169
   156
   Cr
   4.0
   3.8
   3.9
   3.5
   TCO2
   29
   31
   30
   30
   32
   29
   Glucose
   183
   148
   141
   138
   Other labs: PT / PTT / INR:14.7/35.5/1.3, CK / CKMB /
   Troponin-T:303/14/0.32, ALT / AST:28/46, Alk Phos / T Bili:47/0.8,
   Lactic Acid:0.9 mmol/L, Albumin:3.6 g/dL, LDH:211 IU/L, Ca++:7.5 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.4 mg/dL
   Imaging: VQ intermediate prob
   Assessment and Plan
   69 y/o woman with
          Shock
          Acute renal failure
          Cirrhosis
          Varices s/p banding but without signs of active bleeding
          Respiratory acidosis
          Volume overload
          Cor pulmonale
   Shock
          Empiric ABX while awaiting cultures (stop on Monday if cx
   negative). Does not seem infected.
          If no progress or worsens can consider PA catheterization
          Overall, she
s improved and we were again able to stop
   pressors this morning.  Given that this has occurred in the setting of
   CVVH and fall in CVP, I suspect that her volume overload resulted in
   ventricular dilation putting her on the wrong end of the Starling
   Curve.  As CVP has fallen, pressor dose decreased and UOP has
   increased.  Continue CVVHD for volume removal
   [image004.gif]
   Acidosis
          Respiratory acidosis has improved/stabilized off NIMV
   ARF
          Likely ATN; seems less likely HRS but possible.
          CVVHD
   Abnormal VQ scan
          We did the VQ to exclude very large PE, which could cause
   both shock and high pCO2 (via increased Vd/Vt).  If we had found that,
   would have been reasonable to discuss catheter-based thrombectomy.
          However, intermediate VQ is not consistent with truly
   massive PE.  Since she is extraordinarily high risk for hemorrhage from
   recently banded varices, would not anticoagulate in this setting.
          Will check LE Dopplers and if (+) consider IVC filter.
   Code status
   She would not wish for CPR/defibrillation in the event of pulseless
   arrest. If intubated, would want a time-limited trial of ventilation.
   Otherwise, aggressive care.
   Discussed with husband, son, and patient.
   ICU Care
   Nutrition: begin oral diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2107-2-1**] 09:17 PM
   20 Gauge - [**2107-2-1**] 09:18 PM
   Multi Lumen - [**2107-2-2**] 02:24 AM
   Arterial Line - [**2107-2-2**] 08:05 PM
   Dialysis Catheter - [**2107-2-3**] 08:04 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Disposition : ICU
   Total time spent: 40 min

2107-02-06 07:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2107-2-5**] 03:06 PM
 ARTERIAL LINE - START [**2107-2-5**] 04:16 PM
 ULTRASOUND - At [**2107-2-5**] 06:24 PM
   bilat leni
   - Renal: Will continue CRRT, d/c Sevelamer while on dialysis, check
   Vanc level
   - ~1 liter off with CVVHD today
   - GI: Improving, would not anticoagulate given bleeding risk
   - Aline placed, questionable tracing but MAP seems consistent with
   non-invasive BP measurements
   - LENIs (prelim): No DVT
   - Liver: Advising against anticoagulation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2107-2-5**] 09:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2107-2-6**] 06:00 AM
   Infusions:
   Calcium Gluconate (CRRT) - 2 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2107-2-5**] 09:00 PM
   Heparin Sodium (Prophylaxis) - [**2107-2-5**] 10:04 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Psychiatric / Sleep: Anxious
   Flowsheet Data as of  [**2107-2-6**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.5
C (97.7
   HR: 73 (70 - 83) bpm
   BP: 68/56(62) {58/47(52) - 139/86(105)} mmHg
   RR: 22 (13 - 23) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 128.2 kg (admission): 128.7 kg
   Height: 67 Inch
    CVP: 21 (17 - 25)mmHg
   Total In:
                                                                  8,499 mL
                                                                  2,633 mL
   PO:
                                                                    240 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  8,259 mL
                                                                  2,573 mL
   Blood products:
   Total out:
                                                                  9,560 mL
                                                                  3,112 mL
   Urine:
                                                                    163 mL
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,061 mL
                                                                   -479 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: 7.37/46/91.[**Numeric Identifier **]/26/0
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Diminished: bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm, Stable ecchymoses over extremities, neck
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   120 K/uL
   7.4 g/dL
   152 mg/dL
   2.6 mg/dL
   26 mEq/L
   4.2 mEq/L
   47 mg/dL
   103 mEq/L
   139 mEq/L
   25.7 %
   5.5 K/uL
        [image002.jpg]
                             [**2107-2-5**]  01:59 AM
                             [**2107-2-5**]  02:06 AM
                             [**2107-2-5**]  06:08 AM
                             [**2107-2-5**]  08:14 AM
                             [**2107-2-5**]  02:28 PM
                             [**2107-2-5**]  02:56 PM
                             [**2107-2-5**]  08:17 PM
                             [**2107-2-6**]  01:28 AM
                             [**2107-2-6**]  02:01 AM
                             [**2107-2-6**]  05:57 AM
   WBC
   6.3
   5.2
   5.5
   Hct
   25.5
   25.7
   25.7
   Plt
   156
   148
   120
   Cr
   3.5
   2.9
   2.6
   TCO2
   30
   32
   29
   30
   30
   28
   28
   Glucose
   138
   189
   152
   Other labs: PT / PTT / INR:14.4/38.4/1.3, CK / CKMB /
   Troponin-T:303/14/0.32, ALT / AST:34/55, Alk Phos / T Bili:48/1.0,
   Lactic Acid:1.0 mmol/L, Albumin:3.6 g/dL, LDH:244 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.4 mg/dL
   Imaging: [**2-5**] LENIs (Preliminary read): No DVT either lower extremity
   Microbiology: [**2-2**], [**2-3**] BCx: NGTD
   [**2-1**], [**2-2**], [**2-3**] UCx: Negative
   [**2-2**] Peritoneal fluid: NGTD
   Assessment and Plan
   69 y/o F DM, CAD recent NSTEMI, cirrhosis who p/w anemia, hypotension,
   worsening renal failure.
   # Dyspnea: Continues to speak in abbreviated sentences, but saturating
   well on room air, ABG's consistently good, with mild hypercarbia. 1
   liter fluid successfully removed via CVVHD yesterday, on CCHD again
   today. Sub-optimal V/Q intermediate probability, but patient's
   comorbidities (i.e. recently banded esophageal varices) make her a poor
   candidate for anticoagulation. Lower extremities negative for DVT.
   Afebrile throughout admission; hypothermic < 96 x1, several days ago.
   Today is day 4 of vanco/zosyn for empiric treatment of HAP
   - Can discontinue Vanc/Zosyn tomorrow given lack of localizing symptoms
   concerning for pneumonia at this time and likely other etiologies for
   hypotension, dyspnea
   - Continue to monitor SpO2 and ABG's on room air
   - D/c ABx after tomorrow
   - Continue to hold anticoagulation
   # Acute kidney injury: Creatinine peaked at 4.8, now on CVVH. On
   octreotide/midodrine for empiric treatment of hepatorenal syndrome.
   ~160 cc urine over 24 hrs yesterday.
   - Monitor electrolytes/creatinine
   - Continue with octreotide/midodrine if consulting services believe
   will be of benefit
   - f/u liver, renal recs
   # Hypotension: BP stable off pressors x 24 hrs, while on CVVHD.
   Possible positional element (worse when on sides?) Sepsis and
   cardiogenic shock unlikely. Significant third spacing Could also have
   been volume overloaded [**1-18**] ARF. Lost arterial line
   - continue to monitor
   # Black stool and microcytic anemia: EGD revealing potential slow bleed
   from portal hypertension gastropathy and varices. Hct stable. Would not
   anticoagulate at this time, in discussions with GI re: V/Q scan results
   - Hold Nadolol, ACE, Spironolactone
   # Diabetes: Hold metformin.
   - Sliding scale while in house.
   # CAD: No chest pain. Cardiac enzymes stably elevated. Likely in
   setting of renal failure and old NSTEMI
   - Continue ASA, Atorvastatin
   # Atrial fibrillation: Currently rate controlled.
   - Hold Nadolol in setting of acute bleed but consider restarting if BP
   consistently stable
   # Cirrhosis: LFT and coags are stable. Oriented X 3.
   - Liver team to follow
   # FEN: replete electrolytes, low potassium / renal / DM diet
   # Prophylaxis: pneumoboots, SCH, PPI
   # Access: central line. 20g PIV x1. Left radial line, Left IJ HD line
   # Communication: Patient and husband
   # Code:  DNR but please intubate (confirmed with patient)
   # Disposition: ICU on CVVH
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2107-2-1**] 09:18 PM
   Multi Lumen - [**2107-2-2**] 02:24 AM
   Dialysis Catheter - [**2107-2-3**] 08:04 PM
   Arterial Line - [**2107-2-5**] 04:16 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2107-02-07 07:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Getting CVVH
   [**2-5**]
   - Renal: Will continue CRRT, d/c Sevelamer while on dialysis, check
   Vanc level
   - ~1 liter off with CVVHD today
   - GI: Improving, would not anticoagulate given bleeding risk
   - Aline placed, questionable tracing but MAP seems consistent with
   non-invasive BP measurements
   - LENIs (prelim): No DVT
   - Liver: Advising against anticoagulation
   .
   [**2-6**]
   - LENI still prelim read
   - Liver/renal recs: Continue course
   - B/UCx ngtd
   - CVVH running: goal -2/-3L. Took off -1.5L by 9pm!
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2107-2-6**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2107-2-7**] 06:03 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2107-2-6**] 08:23 AM
   Heparin Sodium (Prophylaxis) - [**2107-2-6**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-2-7**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.5
C (97.7
   HR: 71 (67 - 79) bpm
   BP: 107/59(73) {81/35(47) - 135/91(123)} mmHg
   RR: 20 (14 - 25) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 127.4 kg (admission): 128.7 kg
   Height: 67 Inch
    CVP: 22 (17 - 34)mmHg
   Total In:
                                                                  7,555 mL
                                                                  2,584 mL
   PO:
                                                                    210 mL
                                                                     50 mL
   TF:
   IVF:
                                                                  7,345 mL
                                                                  2,534 mL
   Blood products:
   Total out:
                                                                  9,591 mL
                                                                  3,430 mL
   Urine:
                                                                    172 mL
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,036 mL
                                                                   -842 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: 7.29/55/82.[**Numeric Identifier **]/25/0
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   140 K/uL
   7.7 g/dL
   178 mg/dL
   2.1 mg/dL
   25 mEq/L
   4.3 mEq/L
   27 mg/dL
   105 mEq/L
   139 mEq/L
   26.1 %
   5.5 K/uL
        [image002.jpg]
                             [**2107-2-5**]  08:17 PM
                             [**2107-2-6**]  01:28 AM
                             [**2107-2-6**]  02:01 AM
                             [**2107-2-6**]  05:57 AM
                             [**2107-2-6**]  12:21 PM
                             [**2107-2-6**]  04:04 PM
                             [**2107-2-6**]  04:48 PM
                             [**2107-2-6**]  08:00 PM
                             [**2107-2-7**]  01:51 AM
                             [**2107-2-7**]  02:05 AM
   WBC
   5.5
   5.3
   5.5
   Hct
   25.7
   26.2
   26.1
   Plt
   120
   137
   140
   Cr
   2.6
   2.3
   2.1
   TCO2
   30
   28
   28
   25
   26
   25
   28
   Glucose
   152
   184
   182
   179
   178
   Other labs: PT / PTT / INR:13.9/31.4/1.2, CK / CKMB /
   Troponin-T:303/14/0.32, ALT / AST:34/55, Alk Phos / T Bili:48/1.0,
   Lactic Acid:1.0 mmol/L, Albumin:3.6 g/dL, LDH:244 IU/L, Ca++:8.8 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 DIABETES MELLITUS (DM), TYPE II
 HYPOTENSION (NOT SHOCK)
 CIRRHOSIS OF LIVER, OTHER
 .H/O MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 ATRIAL FIBRILLATION (AFIB)
 DYSLIPIDEMIA (CHOLESTEROL, TRIGLYCERIDE, LIPID DISORDER)
 HYPOXEMIA
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
   Assessment and Plan
   69 y/o F DM, CAD recent NSTEMI, cirrhosis who p/w anemia, hypotension,
   worsening renal failure.
   # Dyspnea: Continues to speak in abbreviated sentences, but saturating
   well on room air, ABG's consistently good, with mild hypercarbia. 1
   liter fluid successfully removed via CVVHD yesterday, on CCHD again
   today. Sub-optimal V/Q intermediate probability, but patient's
   comorbidities (i.e. recently banded esophageal varices) make her a poor
   candidate for anticoagulation. Lower extremities negative for DVT.
   Afebrile throughout admission; hypothermic < 96 x1, several days ago.
   Today is day 4 of vanco/zosyn for empiric treatment of HAP
   - Can discontinue Vanc/Zosyn tomorrow given lack of localizing symptoms
   concerning for pneumonia at this time and likely other etiologies for
   hypotension, dyspnea
   - Continue to monitor SpO2 and ABG's on room air
   - D/c ABx after tomorrow
   - Continue to hold anticoagulation
   # Acute kidney injury: Creatinine peaked at 4.8, now on CVVH. On
   octreotide/midodrine for empiric treatment of hepatorenal syndrome.
   ~160 cc urine over 24 hrs yesterday.
   - Monitor electrolytes/creatinine
   - Continue with octreotide/midodrine if consulting services believe
   will be of benefit
   - f/u liver, renal recs
   # Hypotension: BP stable off pressors x 24 hrs, while on CVVHD.
   Possible positional element (worse when on sides?) Sepsis and
   cardiogenic shock unlikely. Significant third spacing Could also have
   been volume overloaded [**1-18**] ARF. Lost arterial line
   - continue to monitor
   # Black stool and microcytic anemia: EGD revealing potential slow bleed
   from portal hypertension gastropathy and varices. Hct stable. Would not
   anticoagulate at this time, in discussions with GI re: V/Q scan results
   - Hold Nadolol, ACE, Spironolactone
   # Diabetes: Hold metformin.
   - Sliding scale while in house.
   # CAD: No chest pain. Cardiac enzymes stably elevated. Likely in
   setting of renal failure and old NSTEMI
   - Continue ASA, Atorvastatin
   # Atrial fibrillation: Currently rate controlled.
   - Hold Nadolol in setting of acute bleed but consider restarting if BP
   consistently stable
   # Cirrhosis: LFT and coags are stable. Oriented X 3.
   - Liver team to follow
   # FEN: replete electrolytes, low potassium / renal / DM diet
   # Prophylaxis: pneumoboots, SCH, PPI
   # Access: central line. 20g PIV x1. Left radial line, Left IJ HD line
   # Communication: Patient and husband
   # Code:  DNR but please intubate (confirmed with patient)
   # Disposition: ICU on CVVH
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2107-2-2**] 02:24 AM
   Dialysis Catheter - [**2107-2-3**] 08:04 PM
   Arterial Line - [**2107-2-5**] 04:16 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2107-02-08 07:16:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - About -1.7L by 2200, by UF today (HD tomorrow)
   - Liver recs: Continue octreotide, midrodine, albumin, d/w them
   tomorrow further course, we have not been giving albumin, d/c'd
   octreotide today.
   - CPAP o/n?
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2107-2-6**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2107-2-7**] 06:03 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.8 grams/hour
   KCl (CRRT) - 1 mEq./hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-2-8**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.4
C (95.8
   HR: 69 (66 - 79) bpm
   BP: 61/52(57) {44/39(42) - 86/71(113)} mmHg
   RR: 18 (16 - 27) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 120.5 kg (admission): 128.7 kg
   Height: 67 Inch
    CVP: 15 (15 - 27)mmHg
   Total In:
                                                                  7,673 mL
                                                                  2,101 mL
   PO:
                                                                  1,010 mL
   TF:
   IVF:
                                                                  6,663 mL
                                                                  2,101 mL
   Blood products:
   Total out:
                                                                 10,301 mL
                                                                  3,355 mL
   Urine:
                                                                    171 mL
                                                                     40 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,628 mL
                                                                 -1,254 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: 7.36/41/81.[**Numeric Identifier **]/23/-1
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   174 K/uL
   7.8 g/dL
   164 mg/dL
   1.8 mg/dL
   23 mEq/L
   4.4 mEq/L
   16 mg/dL
   104 mEq/L
   138 mEq/L
   27.1 %
   7.7 K/uL
        [image002.jpg]
                             [**2107-2-7**]  01:51 AM
                             [**2107-2-7**]  02:05 AM
                             [**2107-2-7**]  11:22 AM
                             [**2107-2-7**]  11:39 AM
                             [**2107-2-7**]  05:27 PM
                             [**2107-2-7**]  05:50 PM
                             [**2107-2-7**]  11:59 PM
                             [**2107-2-8**]  12:13 AM
                             [**2107-2-8**]  05:54 AM
                             [**2107-2-8**]  06:08 AM
   WBC
   5.5
   7.7
   Hct
   26.1
   27.7
   27.1
   Plt
   140
   187
   174
   Cr
   2.1
   2.1
   1.9
   1.8
   1.8
   TCO2
   28
   26
   24
   24
   24
   Glucose
   179
   178
   185
   181
   141
   164
   Other labs: PT / PTT / INR:13.1/30.0/1.1, CK / CKMB /
   Troponin-T:303/14/0.32, ALT / AST:34/55, Alk Phos / T Bili:48/1.0,
   Lactic Acid:1.0 mmol/L, Albumin:3.6 g/dL, LDH:244 IU/L, Ca++:8.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   69 y/o F DM, CAD recent NSTEMI, cirrhosis who p/w anemia, hypotension,
   worsening renal failure.
   # Dyspnea: Speaking easily, denies problems, s/p 2.6 liters off this
   AM. Hypotension likely in setting of severe right heart
   strain/ventricular dilation from volume overload. Recent V/Q
   intermediate probability for PE but at high risk for bleeding with
   anticoagulation given liver disease, so holding on anticoagulation for
   now. Yesterday, discontinued Vanc / Zosyn for ?HAP and presumed sepsis
   given initial presentation of shock
   - Continue to monitor SpO2 and ABG's on room air; has known OSA
   - Continue to hold anticoagulation
   - Continue active hemodialysis (ultrafiltration yesterday and trial
   hemodialysis today)
   # Acute kidney injury: Creatinine peaked at 4.8, now on CVVH/UF/HD. On
   octreotide / midodrine for empiric treatment of hepatorenal syndrome.
   Minimal UOP.
   - Continue CVVHD/UF/HD
 will monitor progress on UF/HD
   - Monitor electrolytes/creatinine
   - Continue with octreotide/midodrine
 will touch base with Hepatology
   today regarding benefits to continuing
   - F/u liver, renal recs
   # Cirrhosis: LFT and coags are stable. Oriented X 3. MELD of 22 but not
   candidate for transplant currently secondary to BMI. Needs to lose 40
   pounds, likely a third or half of which is fluid. Also needs to
   decrease pulmonary hypertension (left heart failure).
   - Liver team to follow
 appreciate their recommendations
   - Continue to actively hemodialyze
   - Discuss weight loss options with patient
   - Elevated CA [**15**]-9 from previous admission also long-term follow-up as
   underlying malignancies can impact transplant candidacies
   # Hypotension: BP stable off pressors x 72 hrs, while on CVVHD/UF.
   Possible positional element (worse when on sides?) Sepsis and
   cardiogenic shock unlikely. Significant third spacing. Could also have
   been volume overloaded [**1-18**] ARF. Now off pressors X3 days
   - continue to monitor
   - Continue CVVHD/UF/HD
   # Black stool and microcytic anemia: EGD revealing potential slow bleed
   from portal hypertension gastropathy and varices. Hct stable. Would not
   anticoagulate at this time, in discussions with GI re: V/Q scan
   results. Per nursing, continues to have soft, formed tarry stools
   - Guaiac stools to confirm slow GI bleed
   - Hold Nadolol, ACE, Spironolactone
   # Diabetes: Hold metformin.
   - Sliding scale while in house.
   # CAD: No chest pain. Cardiac enzymes stably elevated. Likely in
   setting of renal failure and old NSTEMI
   - Continue ASA, Atorvastatin
   # Atrial fibrillation: Currently rate controlled.
   - Hold Nadolol in setting of acute bleed but consider restarting if BP
   consistently stable
   # FEN: replete electrolytes, low potassium / renal / DM diet
   # Prophylaxis: pneumoboots, SCH, PPI
   # Access: central line. 20g PIV x1. Left IJ HD line
   # Communication: Patient and husband
   # Code:  DNR but please intubate (confirmed with patient)
   # Disposition: ICU on CVVH
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 DIABETES MELLITUS (DM), TYPE II
 HYPOTENSION (NOT SHOCK)
 CIRRHOSIS OF LIVER, OTHER
 .H/O MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 ATRIAL FIBRILLATION (AFIB)
 DYSLIPIDEMIA (CHOLESTEROL, TRIGLYCERIDE, LIPID DISORDER)
 HYPOXEMIA
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2107-2-2**] 02:24 AM
   Dialysis Catheter - [**2107-2-3**] 08:04 PM
   Arterial Line - [**2107-2-5**] 04:16 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2107-02-08 10:13:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   - one episode of tarry stool, guaiac not tested
   - took off 2 L yesterday
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2107-2-6**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2107-2-7**] 06:03 AM
   Infusions:
   KCl (CRRT) - 1 mEq./hour
   Calcium Gluconate (CRRT) - 1.8 grams/hour
   Other ICU medications:
   Other medications:
   lactulose
   heparin SQ tid
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-2-8**] 10:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 36
C (96.8
   Tcurrent: 35.2
C (95.3
   HR: 80 (66 - 84) bpm
   BP: 65/52(58) {44/39(42) - 86/71(113)} mmHg
   RR: 18 (16 - 27) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 120.5 kg (admission): 128.7 kg
   Height: 67 Inch
   CVP: 21 (15 - 29)mmHg
   Total In:
                                                                  7,673 mL
                                                                  3,117 mL
   PO:
                                                                  1,010 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  6,663 mL
                                                                  2,881 mL
   Blood products:
   Total out:
                                                                 10,301 mL
                                                                  5,267 mL
   Urine:
                                                                    171 mL
                                                                     60 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,628 mL
                                                                 -2,146 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: 7.36/41/81.[**Numeric Identifier **]/23/-1
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: )
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.8 g/dL
   174 K/uL
   164 mg/dL
   1.8 mg/dL
   23 mEq/L
   4.4 mEq/L
   16 mg/dL
   104 mEq/L
   138 mEq/L
   27.1 %
   7.7 K/uL
        [image002.jpg]
                             [**2107-2-7**]  01:51 AM
                             [**2107-2-7**]  02:05 AM
                             [**2107-2-7**]  11:22 AM
                             [**2107-2-7**]  11:39 AM
                             [**2107-2-7**]  05:27 PM
                             [**2107-2-7**]  05:50 PM
                             [**2107-2-7**]  11:59 PM
                             [**2107-2-8**]  12:13 AM
                             [**2107-2-8**]  05:54 AM
                             [**2107-2-8**]  06:08 AM
   WBC
   5.5
   7.7
   Hct
   26.1
   27.7
   27.1
   Plt
   140
   187
   174
   Cr
   2.1
   2.1
   1.9
   1.8
   1.8
   TCO2
   28
   26
   24
   24
   24
   Glucose
   179
   178
   185
   181
   141
   164
   Other labs: PT / PTT / INR:13.1/30.0/1.1, CK / CKMB /
   Troponin-T:303/14/0.32, ALT / AST:34/55, Alk Phos / T Bili:48/1.0,
   Lactic Acid:1.0 mmol/L, Albumin:3.6 g/dL, LDH:244 IU/L, Ca++:8.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 DIABETES MELLITUS (DM), TYPE II
 HYPOTENSION (NOT SHOCK)
 CIRRHOSIS OF LIVER, OTHER
 .H/O MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 ATRIAL FIBRILLATION (AFIB)
 DYSLIPIDEMIA (CHOLESTEROL, TRIGLYCERIDE, LIPID DISORDER)
 HYPOXEMIA
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
   - Volume overload
 Continue CVVH with aggressive volume removal, trial of HD today
   - Tarry stools: hx banded varices
 guaiac stools
 noon Hct
 contact GI for update
   - Cirrhosis
 Liver recs appreciated
   - Hypotension: reolved, off pressors
 follow cuff
   - DM: RISS
   -
   ICU Care
   Nutrition: PO diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2107-2-2**] 02:24 AM
   Dialysis Catheter - [**2107-2-3**] 08:04 PM
   Arterial Line - [**2107-2-5**] 04:16 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR (do not resuscitate) ; OK for intubation
   Disposition :ICU
   Total time spent: 35 mins

2107-02-09 07:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Renal: would like CVVHD today, HD tomorrow AM
   - Liver: Continue course
   - Stool small, formed, brown but g+
   - Hct 27.1 --> 26.6
   - ISS: Added fixed Lantus dose before bed
   - TEN (!) liters negative over 24 hrs
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2107-2-6**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2107-2-7**] 06:03 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.8 grams/hour
   KCl (CRRT) - 1 mEq./hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2107-2-9**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.6
C (97.8
   HR: 80 (75 - 88) bpm
   BP: 103/60(70) {85/42(52) - 133/91(102)} mmHg
   RR: 16 (15 - 22) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 108.7 kg (admission): 128.7 kg
   Height: 67 Inch
    CVP: 11 (11 - 29)mmHg
   Total In:
                                                                  7,347 mL
                                                                  1,943 mL
   PO:
                                                                    720 mL
   TF:
   IVF:
                                                                  6,627 mL
                                                                  1,943 mL
   Blood products:
   Total out:
                                                                 18,202 mL
                                                                  3,117 mL
   Urine:
                                                                    115 mL
                                                                      5 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                -10,855 mL
                                                                 -1,174 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: 7.38/38/86/21/-1
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   173 K/uL
   7.5 g/dL
   161 mg/dL
   2.0 mg/dL
   21 mEq/L
   4.2 mEq/L
   11 mg/dL
   103 mEq/L
   138 mEq/L
   27.2 %
   5.7 K/uL
        [image002.jpg]
                             [**2107-2-8**]  05:54 AM
                             [**2107-2-8**]  06:08 AM
                             [**2107-2-8**]  11:53 AM
                             [**2107-2-8**]  12:16 PM
                             [**2107-2-8**]  06:13 PM
                             [**2107-2-8**]  06:15 PM
                             [**2107-2-9**]  12:03 AM
                             [**2107-2-9**]  12:25 AM
                             [**2107-2-9**]  05:31 AM
                             [**2107-2-9**]  05:42 AM
   WBC
   7.7
   5.7
   Hct
   27.1
   26.6
   26
   27.2
   Plt
   174
   173
   Cr
   1.8
   1.9
   2.0
   2.0
   TCO2
   24
   25
   23
   21
   23
   Glucose
   164
   210
   202
   154
   153
   157
   153
   168
   161
   Other labs: PT / PTT / INR:14.3/32.7/1.2, CK / CKMB /
   Troponin-T:303/14/0.32, ALT / AST:34/55, Alk Phos / T Bili:48/1.0,
   Lactic Acid:1.0 mmol/L, Albumin:3.6 g/dL, LDH:244 IU/L, Ca++:8.9 mg/dL,
   Mg++:1.9 mg/dL, PO4:1.6 mg/dL
   Microbiology: BCx [**2-3**]: Pending
   Otherwise, no growth
   Assessment and Plan
   69 y/o F DM, CAD recent NSTEMI, cirrhosis who p/w anemia, hypotension,
   worsening renal failure.
   # Dyspnea: Continues to improve with further diuresis; likely due to
   massive fluid overload. 10 liters off with CVVH yesterday. Negative 14
   liters for LOS, ~20kg LOS. Satting excellently on room air.
   - Continue to monitor SpO2 and ABG's on room air; has known OSA
   - Will continue CPAP when napping/sleeping overnight as tolerated
   # Black stool and microcytic anemia: Hct stable. EGD revealed potential
   slow bleed [**1-18**] portal hypertension gastropathy and varices. Avoiding
   anticoagulation per hepatology recs, given high risk for bleeding. Did
   have guaiac positive stool yesterday.
   - Hct [**Hospital1 **]
   - maintain adequate IV access, active type/screen
   # Acute kidney injury: Creatinine stabilized at 2.0 on CVVH after
   peaking at 4.8. On Midodrine for empiric treatment of hepatorenal
   syndrome, not on Octreotide or Albumin at this time. Minimal UOP.
   - Trialing HD this morning
   - Monitor electrolytes/creatinine; now on sliding scale for phosphate
   - F/u renal recs: patient needs daily HD
   # Cirrhosis: LFT and coags are stable when last checked. Oriented X 3.
   Needs to have sufficiently low BMI for transplant candidacy; may be
   approaching this level with aggressive fluid removal. Also needs to
   decrease pulmonary hypertension (left heart failure).
   - Hepatology recs
   - BMI now 38, therefore transplant candidate
   - Elevated CA 125 from previous admission also long-term follow-up as
   underlying malignancies can impact transplant candidacies
   # Hypotension: Off pressors x several days, while on CVVHD/UF. Possible
   positional element (worse when on sides?)
   - continue to monitor
   - Continue CVVHD/UF/HD
 trialing HD today
   # Diabetes: Hold metformin.
   - Sliding scale while in house with fixed dose started overnight
   (tolerated well yesterday)
   # CAD: No chest pain. Cardiac enzymes stably elevated. Likely in
   setting of renal failure and old NSTEMI
   - Continue ASA, Atorvastatin
   # Atrial fibrillation: Rate controlled.
   - Hold Nadolol in setting of acute bleed but consider restarting if BP
   consistently stable
   # FEN: replete electrolytes, low potassium / renal / DM diet
   # Prophylaxis: pneumoboots, SCH, PPI
   # Access: Right IJ CVL. Left radial line (draws only, BP measurements
   inaccurate). Left IJ HD line
   # Communication: Patient and husband
   # Code:  DNR but please intubate (confirmed with patient)
   # Disposition: ICU on CVVH
 potential transfer to floor for HD
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2107-2-2**] 02:24 AM
   Dialysis Catheter - [**2107-2-3**] 08:04 PM
   Arterial Line - [**2107-2-5**] 04:16 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2107-02-10 06:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2107-2-9**] 06:05 PM
   [**2-8**]:
   - Renal: would like CVVHD today, HD tomorrow AM
   - Liver: Continue course
   - Stool small, formed, brown but g+
   - Hct 27.1 --> 26.6
   - ISS: Added fixed Lantus dose before bed
   - TEN (!) liters negative over 24 hrs
   .
   [**2-9**]:
   - Blood cultures pending; CPAP overnight
   - Will need repeat ECHO eventually...
   - Liver recs: Nothing new
   - Renal recs: Knows she needs daily HD. Tolerated HD today (took off
   2L). Plan for HD tunnelled line tomorrow (NPO after MN).
   - D/c'd foley and Aline today
   .
   [**2-10**]:
   - SBP dropped to 90s but mentating well
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2107-2-9**] 08:15 AM
   Carafate (Sucralfate) - [**2107-2-9**] 08:15 AM
   Heparin Sodium (Prophylaxis) - [**2107-2-9**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-2-10**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36
C (96.8
   HR: 75 (74 - 92) bpm
   BP: 87/33(47) {73/33(43) - 119/64(77)} mmHg
   RR: 18 (16 - 26) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 108.7 kg (admission): 128.7 kg
   Height: 67 Inch
    CVP: 11 (0 - 16)mmHg
   Total In:
                                                                  3,678 mL
                                                                     68 mL
   PO:
                                                                    640 mL
   TF:
   IVF:
                                                                  3,038 mL
                                                                     68 mL
   Blood products:
   Total out:
                                                                  6,257 mL
                                                                      0 mL
   Urine:
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,579 mL
                                                                     68 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   133 K/uL
   7.1 g/dL
   130 mg/dL
   2.5 mg/dL
   28 mEq/L
   3.7 mEq/L
   12 mg/dL
   103 mEq/L
   139 mEq/L
   24.4 %
   4.6 K/uL
        [image002.jpg]
                             [**2107-2-8**]  11:53 AM
                             [**2107-2-8**]  12:16 PM
                             [**2107-2-8**]  06:13 PM
                             [**2107-2-8**]  06:15 PM
                             [**2107-2-9**]  12:03 AM
                             [**2107-2-9**]  12:25 AM
                             [**2107-2-9**]  05:31 AM
                             [**2107-2-9**]  05:42 AM
                             [**2107-2-9**]  05:07 PM
                             [**2107-2-10**]  02:34 AM
   WBC
   5.7
   4.6
   Hct
   26.6
   26
   27.2
   25.3
   24.4
   Plt
   173
   133
   Cr
   1.9
   2.0
   2.0
   2.5
   TCO2
   25
   23
   21
   23
   Glucose
   [**Telephone/Fax (3) 11206**]53
   157
   153
   168
   161
   130
   Other labs: PT / PTT / INR:14.8/47.1/1.3, CK / CKMB /
   Troponin-T:303/14/0.32, ALT / AST:34/55, Alk Phos / T Bili:48/1.0,
   Lactic Acid:1.0 mmol/L, Albumin:3.6 g/dL, LDH:244 IU/L, Ca++:8.5 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
 OBSTRUCTIVE SLEEP APNEA (OSA)
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 DIABETES MELLITUS (DM), TYPE II
 HYPOTENSION (NOT SHOCK)
 CIRRHOSIS OF LIVER, OTHER
 .H/O MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 ATRIAL FIBRILLATION (AFIB)
 DYSLIPIDEMIA (CHOLESTEROL, TRIGLYCERIDE, LIPID DISORDER)
 HYPOXEMIA
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
   69 y/o F DM, CAD recent NSTEMI, cirrhosis who p/w anemia, hypotension,
   worsening renal failure.
   # Dyspnea: Continues to improve with further diuresis; likely due to
   massive fluid overload. 10 liters off with CVVH yesterday. Negative 14
   liters for LOS, ~20kg LOS. Satting excellently on room air.
   - Continue to monitor SpO2 and ABG's on room air; has known OSA
   - Will continue CPAP when napping/sleeping overnight as tolerated
   # Black stool and microcytic anemia: Hct stable. EGD revealed potential
   slow bleed [**1-18**] portal hypertension gastropathy and varices. Avoiding
   anticoagulation per hepatology recs, given high risk for bleeding. Did
   have guaiac positive stool yesterday.
   - Hct [**Hospital1 **]
   - maintain adequate IV access, active type/screen
   # Acute kidney injury: Creatinine stabilized at 2.0 on CVVH after
   peaking at 4.8. On Midodrine for empiric treatment of hepatorenal
   syndrome, not on Octreotide or Albumin at this time. Minimal UOP.
   - Trialing HD this morning
   - Monitor electrolytes/creatinine; now on sliding scale for phosphate
   - F/u renal recs: patient needs daily HD
   # Cirrhosis: LFT and coags are stable when last checked. Oriented X 3.
   Needs to have sufficiently low BMI for transplant candidacy; may be
   approaching this level with aggressive fluid removal. Also needs to
   decrease pulmonary hypertension (left heart failure).
   - Hepatology recs
   - BMI now 38, therefore transplant candidate
   - Elevated CA 125 from previous admission also long-term follow-up as
   underlying malignancies can impact transplant candidacies
   # Hypotension: Off pressors x several days, while on CVVHD/UF. Possible
   positional element (worse when on sides?)
   - continue to monitor
   - Continue CVVHD/UF/HD
 trialing HD today
   # Diabetes: Hold metformin.
   - Sliding scale while in house with fixed dose started overnight
   (tolerated well yesterday)
   # CAD: No chest pain. Cardiac enzymes stably elevated. Likely in
   setting of renal failure and old NSTEMI
   - Continue ASA, Atorvastatin
   # Atrial fibrillation: Rate controlled.
   - Hold Nadolol in setting of acute bleed but consider restarting if BP
   consistently stable
   # FEN: replete electrolytes, low potassium / renal / DM diet
   # Prophylaxis: pneumoboots, SCH, PPI
   # Access: Right IJ CVL. Left radial line (draws only, BP measurements
   inaccurate). Left IJ HD line
   # Communication: Patient and husband
   # Code:  DNR but please intubate (confirmed with patient)
   # Disposition: ICU on CVVH
 potential transfer to floor for HD
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2107-2-2**] 02:24 AM
   Dialysis Catheter - [**2107-2-3**] 08:04 PM
   Arterial Line - [**2107-2-5**] 04:16 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   CRITICAL CARE ATTENDING ADDENDUM
   I saw and examined Ms. [**Known lastname 6262**] with the ICU team, whose note from today
   reflects my input.  I would add/emphasize:
          Remains off pressors.
          Excellent volume removal with CVVHD
          Feels better
          Net weight is down 20kg !
   Exam:  mental status appears to continue to improve.  Heart regular
   with murmurs.  Decreased breath sounds at bases.  Protuberant abdomen.
   Labs and meds reviewed.
   Assessment and Plan
   69 y/o woman with
          Acute renal failure, likely ATN
          Cirrhosis
          Shock
 resolved
          Varices s/p banding but without signs of active bleeding
          Volume overload
 improving under treatment
          Cor pulmonale
   Shock
          Now off ABX
          Overall, she
s improved and we were able to stop pressors
   Saturday morning.  Given that this has occurred in the setting of CVVH
   and fall in CVP, I suspect that her volume overload resulted in
   ventricular dilation putting her on the wrong end of the Starling
   Curve.
   ARF
          Likely ATN; seems less likely HRS but possible.  Discuss
   octreotide/midodrine with hepatology and renal.
          I suspect that her volume overload resulted in ventricular
   dilation putting her on the wrong end of the Starling Curve.
          Trial of conversion to HD today.  Will need daily HD for
   volume removal for now.
   Episode of black stool
   Following clinically and with Hct. Stable for now.
   Code status
   She would not wish for CPR/defibrillation in the event of pulseless
   arrest. If intubated, would want a time-limited trial of ventilation.
   Otherwise, aggressive care.
   Other issues as per the ICU team note from today
   Critically ill: 35 min
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2107-2-2**] 02:24 AM
   Dialysis Catheter - [**2107-2-3**] 08:04 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: